US07320995B2
1-isopropylsulfonyl-2-amino-6-(2-(2-fluoro-4-aminophenyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole
Reflux a mixture of 1-isopropylsulfonyl-2-amino-6-(2-(2-fluoro-4-nitrophenyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole (0.59 g), ammonium formate (0.29 g) and Pd/C (10%, 0.12 g) in ethanol (20 mL) at 95° C. for 6 hours. Filter over Celite® and concentrate filtrate under reduced pressure to provide the title compound (0.41 g, 75%). MS(ES+): m/z=491.2 (M+H)+

reactant | 1-isopropylsulfonyl-2-amino-6-(2-(2-fluoro-4-nitrophenyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | 0.59 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C2=C(C=C(C=C2)[N+](=O)[O-])F)N | C25H21FN6O4S
reactant | ammonium formate | 0.29 g | C(=O)[O-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.12 g | [Pd] | Pd
product | 1-isopropylsulfonyl-2-amino-6-(2-(2-fluoro-4-aminophenyl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | 0.41 g, 75% | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C2=C(C=C(C=C2)N)F)N | C25H23FN6O2S
